US08039472B2
To 4-(4-Hydroxy-butyl)-phenol (32.7 g, 197 mmol) in acetone (600 ml) is added potassium carbonate (40.8 g, 295 mmol) followed by (S)-glycidol (13.7 ml, 207 mmol). The mixture is heated at reflux overnight. Further potassium carbonate (20 g) is added, followed by (S)-glycidol (5 g) and the mixture is heated at reflux for 72 hours. The suspension is cooled, filtered and the filtrate concentrated in vacuo. The residue is partitioned between EtOAc (500 ml) and 5% citric acid solution (500 ml). The organics are separated, dried (MgSO4) and concentrated in vacuo to give (S)-3-[4-(4-Hydroxy-butyl)-phenoxy]-propane-1,2-diol as a brown oil; 1H NMR (CDCl3): 1.56-1.74 (4H, m), 2.20 (1H, t, J=2.46 Hz), 2.61 (2H, t, J=7.6 Hz), 3.68 (2H, t, J=6.2 Hz), 3.78 (1H, dd, J=5.4 and 11.5 Hz), 3.86 (1H, dd, J=3.9 and 11.5 Hz), 4.0-4.16 (3H, m), 6.85 (2H, d, J=8.6 Hz), 7.12 (2H, d, J=8.6 Hz).

reactant | 4-(4-Hydroxy-butyl)-phenol | 197 mmol, 32.7 g | OCCCCC1=CC=C(C=C1)O | C10H14O2
reactant | potassium carbonate | 295 mmol, 40.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-glycidol | 207 mmol, 13.7 ml | C1[C@@H](O1)CO | C3H6O2
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-glycidol | 5 g | C1[C@@H](O1)CO | C3H6O2
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | (S)-3-[4-(4-Hydroxy-butyl)-phenoxy]-propane-1,2-diol | OCCCCC1=CC=C(OC[C@H](CO)O)C=C1 | C13H20O4
